US05158598
In 140 ml of ether, 17.4 g (0.725 mol) of magnesium shavings was reacted according to Grignard with 118 g (0.723 mol) of 2-bromothiophene, and this solution was then introduced into 280 ml of ether, 1.5 g (2.8 mmol) of 1,3-bis(diphenylphosphino)propane nickel dichloride and 140 g (0.586 mol) of 5-bromo-2-phenylthiophene. After the slightly exothermic reaction had subsided, the mixture was stirred for 4 hours at boiling point, and the solution thus obtained was then diluted with 280 ml of ether and stirred into 280 ml of 2N hydrochloric acid solution. The crystals which precipitated out were isolated and dried. There was obtained 98.4 g (69.4% of theory) of 5-phenyl-[2,2'-bithienyl], mp. 116.5°-118° C.

reactant | magnesium | 0.725 mol, 17.4 g | [Mg] | Mg
reactant | 2-bromothiophene | 0.723 mol, 118 g | BrC=1SC=CC1 | C4H3BrS
reactant | 5-bromo-2-phenylthiophene | 0.586 mol, 140 g | BrC1=CC=C(S1)C1=CC=CC=C1 | C10H7BrS
reactant | hydrochloric acid | 2N, 280 ml | Cl | ClH
solvent | ether | 140 ml | CCOCC | C4H10O
solvent | ether | 280 ml | CCOCC | C4H10O
catalyst | 1,3-bis(diphenylphosphino)propane nickel dichloride | 2.8 mmol, 1.5 g | [Ni](Cl)Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 280 ml | CCOCC | C4H10O
product | 5-phenyl-[2,2'-bithienyl] | 98.4 g, 69.4% | C1(=CC=CC=C1)C1=CC=C(S1)C=1SC=CC1 | C14H10S2
